Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
PE and DVT
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
Ms. ___ is a ___ year old man, with prior history of ETOH 
Cirrhosis, who is now presenting with bilateral DVT and 
incidental finding of pulmonary embolism. Patient is being 
admitted for further management. 

Mr. ___ reports that he was in his usual state of health 
until about 2 months ago, for which he started to have increased 
abdominal bloating and occasional RUQ pain. Patient reports that 
he did have some intermittent abdominal pain, but he thought 
this was diet related. He has not noted any significant weight 
changes. He then was seen at an OSH in late ___, at 
which point underwent 1 month abdominal bloating and had a CT 
abdomen showing cirrhosis and a 7.5 cm heterogenous right 
hepatic lobe lesion. CT abdomen also notable for an enlarged 
spleen with protosystemic collaterals with paraesophageal 
varices. At that time, he also was found to have ascites with a 
2.5 L fluid removed via paracentesis. Patient was then referred 
to hepatology and ___ here for further evaluation, at which point 
he was ordered to have a CT chest and bone scan as well given 
hepatic mass poor characterization on single-phase CT. Patient 
was therefore referred for further imaging for staging, and was 
on non-occlusive pulmonary emboli in the right basal trunk and 
proximal segmental pulmonary arteries, look more acute than 
chronic. There is no evidence of intrathoracic malignancy is a 
mildly enlarged right diaphragmatic lymph node. Patient has not 
had any chest pains, palpitations, dyspnea, or hypoxia. He 
denies any fevers, chills, or increased asymmetry in the legs.  

Notably, patient has not seen a medical provider ___ > ___ years. 
He denies any history of liver disease. He states that he was 
previously drinking alcohol, almost daily for a few years in the 
___, but then had spaced this out. He had also used intranasal 
cocaine in the past, however no active drug use. No prolonged 
immobility. 

In the ED, initial vitals were: 0 98.3 103 143/91 16 100% RA 
- Exam notable for: Unremarkable.
- Labs notable for: WBC 9.1, Hgb 11.8, Hct 34.2, Platelet 160 
(PMN 67%). Sodium 125, K 4, Cl 88, Bicarb 25, BUN 16, Cr 0.8. 
Glucose 179. ALT 38, AST 147, AP 356, T-bili 5.6, Albumin 2.7. 
INR 1.2. 
Urinalysis: Spec ___ > 1.050, pH 6.5, Trace protein, 
urobilinogen 4. Epi < 1. 

- Imaging was notable for: right pulmonary ratery, and segmental 
artery non-occlusive. Bilateral ___: DVT in the right and left 
lower extremity veins. 
 
- Patient was given:  
___ 17:23 IV Heparin 5400 UNIT 
___ 17:23 IV Heparin  

- Vitals prior to transfer: 98.1 91 134/79 15 99% RA 

Upon arrival to the floor, patient reports no acute complaints.  


 
Past Medical History:
1. Cirrhosis and liver lesion 
2. Adenoidectomy 
 
Social History:
___
Family History:
Mother: ___, TIPS, Renal Failure
Father: ___
 
Physical ___:
ON ADMISSION: 
==============
Vitals:   97.9 PO 138/81 HR 91 18 96 Ra  
General: alert, oriented, no acute distress. ___ backwards.   
HEENT: sclera icteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
allops  
Abdomen: mildly distended, soft, non-tender, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Ext: icteric, warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
Neuro: CNs2-12 intact, motor function grossly normal. No 
axterxsis

ON DISCHARGE: 
==============
VS: 97.6 F, BP 117/69, HR 85 18 98 Ra 
General: alert, oriented, no acute distress. ___ backwards.   
HEENT: sclera icteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: mildly distended, soft, non-tender, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Ext: icteric, warm, dry skin, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: CNs2-12 intact, motor function grossly normal. No 
axterxsis 

 
Pertinent Results:
ON ADMISSION: 
=============
___ 02:52PM BLOOD WBC-9.1 RBC-3.90* Hgb-11.8* Hct-34.2* 
MCV-88 MCH-30.3 MCHC-34.5 RDW-17.3* RDWSD-54.8* Plt ___
___ 02:52PM BLOOD Neuts-69.7 ___ Monos-7.4 Eos-1.0 
Baso-0.7 Im ___ AbsNeut-6.35* AbsLymp-1.88 AbsMono-0.67 
AbsEos-0.09 AbsBaso-0.06
___ 02:52PM BLOOD ___ PTT-25.7 ___
___ 02:52PM BLOOD Glucose-179* UreaN-16 Creat-0.8 Na-125* 
K-4.0 Cl-88* HCO3-25 AnGap-16
___ 02:52PM BLOOD ALT-38 AST-147* AlkPhos-356* TotBili-5.6*
___ 02:52PM BLOOD Albumin-2.7*
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

ON DISCHARGE: 
===============
___ 04:40AM BLOOD WBC-8.8 RBC-3.44* Hgb-10.5* Hct-29.7* 
MCV-86 MCH-30.5 MCHC-35.4 RDW-17.4* RDWSD-55.0* Plt ___
___ 04:40AM BLOOD Neuts-58.8 ___ Monos-8.8 Eos-4.3 
Baso-0.7 Im ___ AbsNeut-5.17 AbsLymp-2.36 AbsMono-0.77 
AbsEos-0.38 AbsBaso-0.06
___ 01:50PM BLOOD PTT-65.8*
___ 01:50PM BLOOD Glucose-192* UreaN-14 Creat-0.6 Na-127* 
K-4.3 Cl-90* HCO3-24 AnGap-17
___ 04:40AM BLOOD ALT-31 AST-131* LD(LDH)-262* AlkPhos-291* 
TotBili-4.7*
___ 02:52PM BLOOD proBNP-22
___ 02:52PM BLOOD cTropnT-<0.01
___ 04:40AM BLOOD Osmolal-271*

CT CHEST W CONTRAST 
The only evidence of intrathoracic malignancy is a mildly 
enlarged right 
diaphragmatic lymph node. 
  
Nonocclusive pulmonary emboli right basal trunk and proximal 
segmental 
pulmonary arteries, look more acute than chronic. 

LENIS 
1.  Deep venous thrombosis in the right superficial femoral, 
popliteal, and paired peroneal and posterior tibial veins. 
2. Deep venous thrombosis in the paired left posterior tibial 
veins. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman, with past history cirrhosis 
thought to be ___ to ETOH, with liver lesion, now presenting 
with incidental bilateral lower extremity DVT and segmental 
pulmonary embolism. 

# Segmental Pulmonary Embolism: 
# Lower Extremity DVT Bilaterally: Incidentally discovered 
segmental PE and b/l DVTs during imaging study for liver mass. 
There was no evidence of RH strain, trops and BNP were flat, no 
changes on EKG. He was started on heparin gtt and decision was 
made to transition to BID lovenox. He received his first dose of 
lovenox on the evening of ___ and was given a 1 month 
prescription.

# Liver Mass: Patient had started initial workup for liver mass, 
with now tri-phasic CT scan of the abdomen. No final read, 
however given underlying cirrhosis with significantly elevated 
AFP to ___ be concerning for ___. The results of this 
study did not return during hospital stay and he has follow up 
planned in liver clinic on ___. 

# ETOH Cirrhosis: Patient with now new diagnosis of cirrhosis, 
reported history of minimal ETOH intake. Tox screen negative on 
admission. Had other workup including immunoglobulins, ___ 
(1:40), IgGs. No biopsy. Possible decompensations include portal 
HTN (splenomegaly), ascites (without history of SBP), and 
suspect varices (no EGD, but paraesophageal varices on imaging). 
He was restarted on home diuretics of 40 mg Lasix and 100 mg 
spironolactone on day of discharge. He will need an EGD in the 
outpatient setting. 

# Normocytic Anemia: ___ to marrow suppression. Baseline appears 
to be around 12. No signs of active bleeding. 

# Hyponatremia: the patient endorsed a history of poor PO intake 
and experimenting with different low sodium foods. He had 
nutrition counseling in the hospital. With improved PO intake 
over the course of the day his Na improved to 127 by time of 
discharge. 

# Right Posterior Ninth rib fracture: seen on imaging with focal 
tracer uptake, stable. 

***Transitional issues***: 
- patient discharged on 70 mg subQ lovenox BID, received lovenox 
teaching in the hospital, script faxed to ___ in ___ 
- will require EGD for screening of varices 
- final read of CT scan pending, follow up in liver clinic 
- restarted on home diuretics at discharge 
- Na at time of discharge: 127. Should have Na checked by ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
2. Spironolactone 100 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 80 mg/0.8 mL 70 mg Q12H twice a day Disp #*60 
Syringe Refills:*0 
2.  Furosemide 40 mg PO DAILY  
3.  Spironolactone 100 mg PO DAILY  
4.Outpatient Lab Work
ICD-10: Hyponatremia E87.1
Please obtain labs by ___
Labs: Chem-10
Please fax results to ___ ___
and ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: 
Segmental PE
Bilateral DVTs
Chronic hyponatremia 

Secondary diagnosis: 
Cirrhosis c/b ascites 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were found to have 
a small pulmonary embolism and DVTs (blood clots) in both of 
your legs. This will be treated with an anticoagulant called 
Lovenox. It is an injectable medication that you should use 
twice a day. 

Your sodium level was found to be low. This is probably because 
of your underlying cirrhosis, low salt intake, and diuretic 
medications. Please get your bloodwork checked in a few days 
time as prescribed, and continue taking your diuretics as 
prescribed. We hope the nutrition counseling in the hospital was 
helpful. 

The final report of your CAT scan is not yet ready. Please 
follow up with your liver doctors as previously ___ in the 
multidisciplinary liver clinic. 

It was a pleasure taking care of you and we wish you the best! 

Sincerely,
Your ___ care team
 
Followup Instructions:
___